US06518305B1
(±)-(1S,2S,3R,4R)-3-Acetamidomethyl-2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonyl-cyclopentane-1-carboxylic Acid
A mixture of (±)-(1S,2S,3R,4R)-3-azidomethyl-2-(N-t-butoxycarbonylamino)methylcyclopentane-1,4-dicarboxylic acid dimethyl ester (386 mg, 1.04 mmole), acetic anhydride (0.25 mL) and palladium (25 mg, 10% on carbon) in 10 mL of ethyl acetate was stirred vigorously at room temperature under an hydrogen atmosphere. Upon completion, as determined by TLC, the reaction mixture was filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel using 75% ethyl acetate in hexanes to provide the title compound. (yield: 232 mg, 58%).

reactant | (±)-(1S,2S,3R,4R)-3-azidomethyl-2-(N-t-butoxycarbonylamino)methylcyclopentane-1,4-dicarboxylic acid dimethyl ester | 1.04 mmole, 386 mg | COC(=O)[C@@H]1[C@H]([C@H]([C@@H](C1)C(=O)OC)CN=[N+]=[N-])CNC(=O)OC(C)(C)C | C16H26N4O6
reactant | acetic anhydride | 0.25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 25 mg | [Pd] | Pd
product | (±)-(1S,2S,3R,4R)-3-Acetamidomethyl-2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonyl-cyclopentane-1-carboxylic Acid | C(C)(=O)NC[C@@H]1[C@@H]([C@H](C[C@H]1C(=O)OC)C(=O)O)CNC(=O)OC(C)(C)C | C17H28N2O7
